US04064257
This preparation illustrates further procedures for preparing alkynylamines. In this preparation 0.1 mole of 5,5-dimethylhex-3-yn-1-ol is mixed with 0.1 mole of triphenylphosphine in 40 ml. of carbon tetrachloride and then heated, under nitrogen, at 60° C for 4 hours. The mixture is then poured into 200 ml. of hexane, stirred, and then filtered and the filtrate concentrated by evaporation under vacuum. The concentrate is then chromatographed on silica gel eluting with 5% ethyl acetate-95% vol. hexane, affording 5,5-dimethylhex-3-yn-1-yl chloride. b. 0.069 Mole of 5,5-dimethylhex-3-yn-1-yl chloride is treated according to the procedures described in paragraph (b) of Preparation A, affording 1-azido-5,5-dimethylhex-3-yne. c. 0.069 Mole of 1-azido-5,5-dimethylhex-3-yne is treated according to the procedure described herein in paragraph (c) of Preparation A affording 1-amino-5,5-dimethylhex-3-yne.

reactant | 5,5-dimethylhex-3-yn-1-ol | 0.1 mole | CC(C#CCCO)(C)C | C8H14O
reactant | triphenylphosphine | 0.1 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | CCCCCC | C6H14
product | 5,5-dimethylhex-3-yn-1-yl chloride | CC(C#CCCCl)(C)C | C8H13Cl
